US05232948
A solution of 4-benzyloxy-2-hydroxybenzaldehyde (1.14 g, 5 mmol) and methyl(triphenylphosphoranylidene)acetate (3.51 g, 10 mmol) in THF (40 ml) is stirred at room temperature for 18 hours. The reaction mixture is then concentrated in vacuo and the residue purified by dry column chromatography using 25% EtOAc in hexane to 2:1/hexane:EtOAc. The concentrated residue is triturated with EtOAc/ether to obtain 2-carbomethoxyvinyl-5-butoxyphenol which is confirmed by NMR and used directly in the next step.

reactant | 4-benzyloxy-2-hydroxybenzaldehyde | 5 mmol, 1.14 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)O | C14H12O3
reactant | methyl(triphenylphosphoranylidene)acetate | 10 mmol, 3.51 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-carbomethoxyvinyl-5-butoxyphenol | C(=O)(OC)C=CC1=C(C=C(C=C1)OCCCC)O | C14H18O4
